US04351838
2-{2-{2-[4-(2,2,-dimethyl-indane-1-ylidene)piperidine-yl]ethoxy}ethoxy}ethanol
2.5 g 4-(2,2-dimethyl-indane-1-ylidene)-piperidine, 1.95 g triethyleneglycol-monochlorhydrin and 2 g sodium carbonate in 50 ml methylisobutylketone are refluxed with stirring for 12 hours. After cooling, the reaction mixture is filtered and the filtrate evaporated. The residue is dissolved in ether, the solution washed two times with a little cold water, dried over sodium sulfate, filtered and evaporated, to give the title compound as a viscous oil. The neutral oxalate melts at 82°-85°.

reactant | 4-(2,2-dimethyl-indane-1-ylidene)-piperidine | 2.5 g | CC1(C(C2=CC=CC=C2C1)=C1CCNCC1)C | C16H21N
reactant | triethyleneglycol monochlorhydrin | 1.95 g | C(COCCOCCO)O.C(C(CCl)O)O
reactant | sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylisobutylketone | 50 ml | CC(=O)CC(C)C | C6H12O
product | 2-{2-{2-[4-(2,2,-dimethyl-indane-1-ylidene)piperidine-yl]ethoxy}ethoxy}ethanol | CC1(C(C2=CC=CC=C2C1)=C1CCN(CC1)CCOCCOCCO)C | C22H33NO3
